US09340556B2
To a suspension of 4-methoxybenzyl 1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate (14 g, 22.52 mmol) in a mixture of Methanol (100 mL) and Water (50.0 mL) was added KOH (2.53 g, 45.0 mmol) portionwise. The resulting mixture was stirred at 90° C. for 2 h. LCMS indicated completion of the reaction. The reaction mixture was cooled down to r.t. and concentrated, and was then diluted with water and adjusted pH to 1 using 2 N HCl (aq.). The precipitates were collected by filtration and dried to afford 1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (11 g, 21.93 mmol, 97% yield) as pale yellow solid. LCMS: [M+H]+: 502.3.

reactant | 4-methoxybenzyl 1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 22.52 mmol, 14 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)OCC1=CC=C(C=C1)OC | C37H35NO8
reactant | KOH | 45.0 mmol, 2.53 g | [OH-].[K+]
solvent | Methanol | 100 mL | CO | CH4O
solvent | Water | 50.0 mL | O | H2O
product | 1-cyclopropyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 21.93 mmol, 11 g, 97% yield | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)=O)C(=O)O | C29H27NO7
